US06265572B1
To a solution of (R)-2,5-dimethoxy-3-isopropyl-3,6-dihydropyrazine (18.4 g, 100 mmol) in 250 mL of dry THF at −70° C. (internal temperature) was added dropwise a solution of n-BuLi (1.6 M in hexane, 63 mL, 100 mmol) over 3 hours so as to maintain the internal temperature below −70° C. After addition, the solution was stirred at −70° C. for 40 min. To the solution was then added 90 mL of a THF solution of methyl trans-4-methoxycinnamate (21.2 g, 110 mmol) over 1 hour. The resulting solution was stirred at −70° C. for additional 4 hours. The reaction was quenched by the addition of acetic acid (6.1 mL, 100 mmol) at −70° C. and the resulting suspension was warmed to room temperature to give a yellow solution. The solution was diluted with ether to 1000 mL and the organic layer was washed with water (3×80 mL) and brine (3×80 mL) and dried over MgSO4. After removal of the solvent, the residue (44.3 g) was purified by HPLC on silica gel, eluting with ethyl acetate/hexane (1:5.5) to give 3(R)-[(2S,5R)-2,5-dihydro-3,6-dimethoxy-5-(1-methylethyl)-2-pyrazinyl]-3-(4-methoxyphenyl)propanoic acid methyl ester (30.6 g, 81.3 mmol, 81.3%). TLC: Rf=0.3, ethyl acetate/hexane (1/5). HRMS, obs. 377.2071, calc. 377.2076. Anal. cacld for C20H26N2O5: C, 64.16; H, 7.00; N, 7.48. Found: C, 64.05; H, 7.28; N, 7.37.

reactant | (R)-2,5-dimethoxy-3-isopropyl-3,6-dihydropyrazine | 100 mmol, 18.4 g | COC1=NCC(=N[C@@H]1C(C)C)OC | C9H16N2O2
reactant | n-BuLi | 100 mmol, 1.6 M, 63 mL | [Li]CCCC
reactant | methyl trans-4-methoxycinnamate | 110 mmol, 21.2 g | COC1=CC=C(/C=C/C(=O)OC)C=C1 | C11H12O3
reactant | acetic acid | 100 mmol, 6.1 mL | C(C)(=O)O | C2H4O2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 3(R)-[(2S,5R)-2,5-dihydro-3,6-dimethoxy-5-(1-methylethyl)-2-pyrazinyl]-3-(4-methoxyphenyl)propanoic acid methyl ester | 81.3 mmol, 30.6 g, 81.3% | COC(C[C@H](C1=CC=C(C=C1)OC)[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC)=O | C20H28N2O5
